US07732448B2
0.16 g of sodium hydride (60% oil suspension) was suspended in 4 ml of tetrahydrofuran. 1 ml of tetrahydrofuran solution of 0.27 g of 2-butyn-1-ol was added dropwise therein, and the mixture was stirred for 10 minutes at room temperature. Into the mixture was added dropwise 1 ml of tetrahydrofuran solution of 0.64 g of 4-chloro-6-(3,5-diethylpiperidino)pyrimidine, wherein the ratio of cis/trans diastereomer on the piperidino ring was 1:1, and stirred for 5 hours at 60° C. Into the reaction mixture was added a saturated ammonium chloride aqueous solution, and the mixture was extracted with tert-butyl methyl ether three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.41 g of 4-(2-butynyloxy)-6-(3,5-diethylpiperidino)pyrimidine (hereinafter, referred to as Compound (30)). Compound (30) had the cis/trans diastereomer originated two ethyls on the pyperidine ring. The ratio of the cis/trans diastereomer was about 1/1.

reactant | sodium hydride | 0.16 g | [H-].[Na+]
reactant | 2-butyn-1-ol | 0.27 g | C(C#CC)O | C4H6O
reactant | 4-chloro-6-(3,5-diethylpiperidino)pyrimidine | 0.64 g | ClC1=NC=NC(=C1)N1CC(CC(C1)CC)CC | C13H20ClN3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-6-(3,5-diethylpiperidino)pyrimidine | 0.41 g | C(C#CC)OC1=NC=NC(=C1)N1CC(CC(C1)CC)CC | C17H25N3O
